US04963552
1,2-Dihydro-4-[3 -(trifluoromethyl)phenyl]imidazo[1,5-a]pyrimidine-8-carbonitrile
To a stirred mixture of 10.0 g of 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile (prepared as described in U.S. Pat. No. 4,236,005, Ex. 28) in 150 ml of glacial acetic acid, under nitrogen, at ice bath temperature, was added portionwise 4.15 g of sodium cyanoborohydride. The reaction mixture was stirred in the cold for 30 minutes then at room temperature for 21/2 hours. Then about 50 ml of water was added to the reaction mixture. The precipitate was collected by filtration, washed with water and dried in vacuo to give 8.8 g of the desired product, mp 241°-243° C.

reactant | 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile | 10.0 g | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C#N)(F)F | C14H7F3N4
reactant | sodium cyanoborohydride | 4.15 g | C(#N)[BH3-].[Na+]
reactant | water | about 50 ml | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 1,2-Dihydro-4-[3 -(trifluoromethyl)phenyl]imidazo[1,5-a]pyrimidine-8-carbonitrile | 8.8 g | FC(C=1C=C(C=CC1)C1=CCNC=2N1C=NC2C#N)(F)F | C14H9F3N4
